Ngspice template file for GGI_TLM - ngspice linked simulation
*
* GGI_TLM link port    1 using nodes    1 and   0
*
* Voltage source with series resistance: equivalent circuit of TLM link
 Vtlm1        1001           0  DC  0.0
 Rtlm1        1001           1  #Z0_TLM
* 
* GGI_TLM link port    2 using nodes    2 and   0
*
* Voltage source with series resistance: equivalent circuit of TLM link
 Vtlm2        1002           0  DC  0.0
 Rtlm2        1002           2  #Z0_TLM
* 
* GGI_TLM link port    3 using nodes    3 and   0
*
* Voltage source with series resistance: equivalent circuit of TLM link
 Vtlm3        1003           0  DC  0.0
 Rtlm3        1003           3  #Z0_TLM
* 
* GGI_TLM link port    4 using nodes    4 and   0
*
* Voltage source with series resistance: equivalent circuit of TLM link
 Vtlm4        1004           0  DC  0.0
 Rtlm4        1004           4  #Z0_TLM
* 
* GGI_TLM link port    5 using nodes    5 and   0
*
* Voltage source with series resistance: equivalent circuit of TLM link
 Vtlm5        1005           0  DC  0.0
 Rtlm5        1005           5  #Z0_TLM
* 
* GGI_TLM link port    6 using nodes    6 and   0
*
* Voltage source with series resistance: equivalent circuit of TLM link
 Vtlm6        1006           0  DC  0.0
 Rtlm6        1006           6  #Z0_TLM
* 
* 
* Voltage source required for the voltage source controlling the breakpoint time
Vbreak time_node 0 DC 0.0
* 

* Model to be included in the GGI_TLM simulation connected to node 1
* INPUT VOLTAGE
VIN	1	0	DC	20.0

* Model to be included in the GGI_TLM simulation connected to node 2
* Voltage controlled switch model
SW1	2       0	8  0 	SWitch1
** Switch snubber
CSW1 2 100 22e-12
RSW1 100 0 10.0

* Model to be included in the GGI_TLM simulation connected to node 3
* Diode model
D1	0	3	DSCH  IC=0.967A
** Diode snubber
CD1 0 101 22e-12
RD1 101 3 10.0

* Model to be included in the GGI_TLM simulation connected to node 4
* Inductor model
L1	4	0	500UH  IC=0.967A
*
* Model to be included in the GGI_TLM simulation connected to node 5
* Capacitor model
C1	5	0	4UF   IC=4.835V

* Model to be included in the GGI_TLM simulation connected to node 6
* LOAD model
RL	6	0	5.0
*
* SWITCH CONTROL SIGNAL
VCTRL	8	0	PULSE(0V 6V 0 0.0001US 0.0001US 0.05US 0.2US)
Rctrl	8	0	1MEG
*
.MODEL  SWitch1	SW	Vt=5V Vh=0.2V RON=0.01 ROFF=1MEG
*
.MODEL DSCH D( IS=0.0002 )
*
*
* Control for transient simulation
.TRAN #dt_out  #tmax_ngspice 0.0 #dt_ngspice  UIC
*
.END
